US08114868B2
4-iodo-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one was prepared from 4-iodopyridin-2(1H)-one and 2,2,2-trifluoroethyl trifluoromethanesulfonate following a procedure analogous to that described in Example 59 Step 1.

reactant | 4-iodopyridin-2(1H)-one | IC1=CC(NC=C1)=O | C5H4INO
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
product | 4-iodo-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | IC1=CC(N(C=C1)CC(F)(F)F)=O | C7H5F3INO
